reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[C+:5][H:15])[O-:6])([H:12])[H:13])([C:7]([H:14])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],103.95357213632099
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[H:7][H:8].[O:1]=[C:2]=[N:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10],79.8565416314226
[C:1]([O:6][H:18])([H:7])([H:8])[H:9].[C:2](=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:10])[H:11]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9],92.7658573156539
[O:1](/[C:2](=[C:3](/[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])[H:9])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7],77.99095249273141
[O:1]1[C:2]([H:8])([H:9])[C@:3]1([O:4][H:7])[C:5]#[C:6][H:10]>>[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7],35.6074686492878
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:16])([H:7])([H:8])[H:9].[C:3]([C:4]([C:5]([H:13])([H:14])[H:15])=[O:6])([H:10])([H:11])[H:12],82.34952415670779
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[H:11][H:13].[O:1]([C:2]([C:3]1=[C:4]([H:12])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],100.12138283751301
[C:1]([C:2]([C:3]#[C:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:6](=[C:5]=[C:2]([C:3]#[C:4][H:11])[H:10])[H:12])([H:7])([H:8])[H:9],89.50268817079241
[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[C:3]/[C:4]1=[C:5](/[O:6][H:8])[H:12],95.3323701374911
[C-:1](=[O+:2][C:3]1([H:8])[C:4]([H:9])([H:10])[O:5][C:6]1([H:11])[H:12])[H:7]>>[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12],35.19720563064439
[O:1]([C@@:2]([C:3]([H:9])([H:10])[H:12])([C:4](=[C:5]=[O:6])[H:11])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],70.24047847722483
[C-:2]([N+:3](=[C:4]([H:13])[H:14])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12].[C:1]([H:8])([H:9])([H:10])[H:15]>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],31.253933941382584
[C:1](=[C:2]([C:3]([O:4][H:12])([H:10])[H:11])[H:9])([H:5])[H:7].[H:6][H:8]>>[C:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7],81.49469530154981
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:2](=[O+:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10].[C:1]([H:7])([H:8])([H:9])[H:11],91.0149354722311
[C:1](/[C:2](=[N:3]\[H:10])[O:6]/[C:5](=[N:4]/[H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9],36.22024214118291
[C:1]([C:2](=[O+:3][C:4](=[C:5]([O-:6])[H:14])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:13]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],7.1020254913456
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7]>>[C:1](=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:12])([H:13])[H:14])([H:6])[H:7].[H:5][H:11],114.04463654024099
[C:1]([C@@:2]([C:3]#[N:4])([C:5]([O:6][H:13])=[C:7]([H:12])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],53.51329786032579
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])[H:9])([H:7])[H:8],90.0439238800601
[C:1]([N:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])=[C:6]=[N:7][H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],61.7339780831455
[C:1](=[C:2]=[C:3]([C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],81.40137004556364
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[C:2](=[C:3]([H:10])[H:11])([C:6]#[C:7][H:12])[H:9].[O:1]([C:4]#[N:5])[H:8],79.4661445000487
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N+:3]1([H:13])[C-:4]=[C:5]([H:14])[N:6]=[C:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],89.6129806548848
[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N+:2]#[C-:3])([H:8])([H:9])[H:10].[O:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11],67.6315037480452
[N:1]([C:2](=[O:3])[N:4]([H:7])[H:8])([H:5])[H:6]>>[N:1]([C@@:2]1([H:7])[O:3][N:4]1[H:8])([H:5])[H:6],137.219299359135
